US06911445B2
N-[(trans)-3-(5-Fluoro-1H-indol-3-yl)cyclopentyl]-N-{[(8S)-2-methyl-7,8-dihydro[1,4]dioxino[2,3-g][1,3]benzoxazol-8-yl]methyl}amine
Toluene-4-sulfonic acid (8R)-2-methyl-7,8-dihydro-1,6,9-trioxa-3-aza-cyclo-penta[a]naphthlen-8-ylmethyl ester (0.46 g, 1.2 mmole) and 3-(5-fluoro-1H-indol-3-yl)-cyclopentylamine (0.27 g, 1.2 mmole) were combined in 8 mL of DMSO under nitrogen. This solution was heated to 75-80° C. under nitrogen for 5 hours. After cooling to room temperature, the reaction was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The organic phase was washed with brine, dried over magnesium sulfate and concentrated in vacuo. Flash chromatography on silica gel (CH2Cl2 then 1% MeOH/CH2Cl2) afforded 0.175 g of the title compound as an off-white solid: m.p. 79-82° C.; MS (ESI) m/z 422 (M+H)+.

reactant | Toluene-4-sulfonic acid (8R)-2-methyl-7,8-dihydro-1,6,9-trioxa-3-aza-cyclo-penta[a]naphthlen-8-ylmethyl ester | 1.2 mmole, 0.46 g | CC1=NC=2C(=C3O[C@H](COC3=CC2)COS(=O)(=O)C2=CC=C(C=C2)C)O1 | C18H17NO6S
reactant | 3-(5-fluoro-1H-indol-3-yl)-cyclopentylamine | 1.2 mmole, 0.27 g | FC=1C=C2C(=CNC2=CC1)C1CC(CC1)N | C13H15FN2
solvent | DMSO | 8 mL | CS(=O)C | C2H6OS
product | N-[(trans)-3-(5-Fluoro-1H-indol-3-yl)cyclopentyl]-N-{[(8S)-2-methyl-7,8-dihydro[1,4]dioxino[2,3-g][1,3]benzoxazol-8-yl]methyl}amine | 0.175 g | FC=1C=C2C(=CNC2=CC1)[C@@H]1C[C@H](CC1)NC[C@@H]1OC2=C(C=CC=3N=C(OC32)C)OC1 | C24H24FN3O3
